US09301951B2
Intermediate 24c: 4-(1-benzyl-1H-1,2,3-triazol-4-yl)-2-(2-nitro-5-(piperidin-1-yl)phenyl)-pyridine
A solution of 50 mg of 4-ethynyl-2-(2-nitro-5-(piperidin-1-yl)phenyl)pyridine, 20 μL of benzyl azide, 16.3 μL of 1 M aqueous sodium ascorbate solution, 5.4 μL of 0.3 M CuSO4 solution, 326 μL of tert-butanol, and 326 μL of water was stirred for 2 days and then the solvent was evaporated at reduced pressure. The residue was dissolved in dichloromethane. The solution was washed with water and dried. The solvent was evaporated at reduced pressure and the residue was chromatographed on silica gel eluting with a 0% to 4% gradient of methanol in dichloromethane. The process yielded 22 mg of product.

reactant | 4-ethynyl-2-(2-nitro-5-(piperidin-1-yl)phenyl)pyridine | 50 mg | C(#C)C1=CC(=NC=C1)C1=C(C=CC(=C1)N1CCCCC1)[N+](=O)[O-] | C18H17N3O2
reactant | benzyl azide | 20 μL | C(C1=CC=CC=C1)N=[N+]=[N-] | C7H7N3
reactant | sodium ascorbate | 1 M, 16.3 μL | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
reactant | tert-butanol | 326 μL | C(C)(C)(C)O | C4H10O
catalyst | CuSO4 | 0.3 M, 5.4 μL | [O-]S(=O)(=O)[O-].[Cu+2]
solvent | water | 326 μL | O | H2O
product | 4-(1-benzyl-1H-1,2,3-triazol-4-yl)-2-(2-nitro-5-(piperidin-1-yl)phenyl)-pyridine | 22 mg | C(C1=CC=CC=C1)N1N=NC(=C1)C1=CC(=NC=C1)C1=C(C=CC(=C1)N1CCCCC1)[N+](=O)[O-] | C25H24N6O2
